US05591735
Preparation of 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstane-17β-ol
After dissolving 39.2 g of 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstan-17-one in a mixture of 392 ml of methanol and 56 ml of methylene chloride. 14.7 g Sodium borohydride are portionwise added while stirring and introducing nitrogen at such a rate that the temperature reaches room temperature as a maximum. The solution containing a precipitate is left to stand for 12 hours, then methylene chloride is evaporated, and the residue is diluted with water. The precipitate is filtered, thoroughly washed with water, dried and recrystallized from methanol to obtain the title product in a yield of 33.3 g (89.5%), m.p.: 167°-169° C.

reactant | 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstan-17-one | 39.2 g | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H](C([C@@]4(C)CC[C@@H]3[C@]1(C2)C)=O)N2CCCC2 | C23H35NO2
reactant | Sodium borohydride | 14.7 g | [BH4-].[Na+]
solvent | methanol | 392 ml | CO | CH4O
solvent | methylene chloride | 56 ml | C(Cl)Cl | CH2Cl2
product | 2α,3α-epoxy-16β-(1-pyrrolidinyl)-5α-androstane-17β-ol | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2 | C23H37NO2
